US04760163
48.4 g of ethyl 2-chloro-5-ureido-benzoate and 31.2 g of ethyl cyclopentanone-2-carboxylate are heated under reflux for 6 hours in 500 ml of benzene and 2 g of toluene-4-sulphonic acid monohydrate. The water formed is removed by means of a water separator. The reaction mixture is subsequently evaporated to dryness, the residue is dissolved in 700 ml of diethyl ether and the solution is filtered. The filtrate is evaporated to dryness and the residue is purified by chromatography on 1.5 g of silica gel using diethyl ether/n-hexane (1:2) as the eluent. This is obtained ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate as colourless crystals. The product is recrystallized from diethyl ether/n-hexane, m.p. 110°-112° C.

reactant | ethyl 2-chloro-5-ureido-benzoate | 48.4 g | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)N | C10H11ClN2O3
reactant | ethyl cyclopentanone-2-carboxylate | 31.2 g | CCOC(=O)C1CCCC1=O | C8H12O3
reactant | water | O | H2O
solvent | benzene | 500 ml | C1=CC=CC=C1 | C6H6
solvent | toluene-4-sulphonic acid monohydrate | 2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | ethyl 2-chloro-5-{3-[2-(ethoxycarbonyl)-1-cyclopenten-1-yl]ureido}-benzoate | ClC1=C(C(=O)OCC)C=C(C=C1)NC(=O)NC1=C(CCC1)C(=O)OCC | C18H21ClN2O5
